US06863647B2
Preparation of (2R)-2-amino-2-phenylethanamide
3.025 g (15 mmol) of (2R)-2-amino-2-phenylethanoate hydrochloride were suspended in 45 ml of dioxane and 45 ml of aqueous ammonium hydrate were added. After 8 hours at room temperature under stirring the solvent was evaporated and the residue redissolved with chloroform and washed with water. The organic layer was concentrated to afford 1.7 g of the title compound as a white solid.

reactant | (2R)-2-amino-2-phenylethanoate hydrochloride | 15 mmol, 3.025 g | Cl.N[C@@H](C(=O)O)C1=CC=CC=C1
reactant | ammonium hydrate | 45 ml | O.[NH4+]
solvent | dioxane | 45 ml | O1CCOCC1 | C4H8O2
product | (2R)-2-amino-2-phenylethanamide | 1.7 g | N[C@@H](C(=O)N)C1=CC=CC=C1 | C8H10N2O
